US08283482B2
The present reaction can be carried out in the presence of acetic acid and can be performed by using acetic acid as a solvent. As described in the above Non-patent Document 11, when concentrated sulfuric acid-hydrogen bromide acid is used and 15-pentadecanolide is reacted, for example, 15-(15-bromopentadecyloxy)pentadecanoic acid, which is difficult to get separated from the target compound 15-bromopentadecanoic acid, is produced as a byproduct. As a result, it becomes difficult to obtain highly pure 15-bromopentadecanoic acid.

reactant | sulfuric acid hydrogen bromide | S(O)(O)(=O)=O.Br
reactant | 15-pentadecanolide | C1(CCCCCCCCCCCCCCO1)=O | C15H28O2
reactant | 15-(15-bromopentadecyloxy)pentadecanoic acid | BrCCCCCCCCCCCCCCCOCCCCCCCCCCCCCCC(=O)O | C30H59BrO3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 15-bromopentadecanoic acid | BrCCCCCCCCCCCCCCC(=O)O | C15H29BrO2
